US06982348B2
4-fluoro-N-{(1RS,2SR)-2-(2-fluoropyridin-4-yl)-2-hydroxy-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-1-naphthamide
To a solution of (1RS,2SR)-2-amino-1-(2-fluoropyridin-4-yl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propan-1-ol (194 mg, 0.54 mmol) in acetonitrile (20 ml) were added 4-fluoronaphthalenecarboxylic acid (101 mg, 0.54 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (154 mg, 0.80 mmol) and 1-hydroxybenzotriazole hydrate (82 mg, 0.54 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1-ethyl acetate). Recrystallization from ethyl acetate-hexane gave the objective substance (189 mg, 66%).

reactant | (1RS,2SR)-2-amino-1-(2-fluoropyridin-4-yl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propan-1-ol | 0.54 mmol, 194 mg | NC(C(O)C1=CC(=NC=C1)F)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C16H15F5N2O2
reactant | 4-fluoronaphthalenecarboxylic acid | 0.54 mmol, 101 mg | FC1=CC=C(C2=CC=CC=C12)C(=O)O | C11H7FO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.80 mmol, 154 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 0.54 mmol, 82 mg | O.ON1N=NC2=C1C=CC=C2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | 4-fluoro-N-{(1RS,2SR)-2-(2-fluoropyridin-4-yl)-2-hydroxy-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-1-naphthamide | FC1=CC=C(C2=CC=CC=C12)C(=O)NC(C(O)C1=CC(=NC=C1)F)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C27H20F6N2O3
